US08735440B2
Step 1: 1-azido-3-(3,6-dibromo-9H-carbazol-9-yl)propan-2-ol
3,6-dibromo-9-(oxiran-2-ylmethyl)-9H-carbazole (500 mg, 1.3 mmol), NaN3 (111 mg, 1.7 mmol), NH4Cl (91 mg, 1.7 mmol), were combined in 4 ml of EtOH and 1 ml of H2O and heated to 80° C. overnight. Upon completion, the EtOH was evaporated and the mixture was partitioned between EtOAc and H2O. The organic layer was washed with brine and dried over Na2SO4 and concentrated. The material was used in the next step without further purification.

reactant | 3,6-dibromo-9-(oxiran-2-ylmethyl)-9H-carbazole | 1.3 mmol, 500 mg | BrC=1C=CC=2N(C3=CC=C(C=C3C2C1)Br)CC1OC1 | C15H11Br2NO
reactant | NaN3 | 1.7 mmol, 111 mg | [N-]=[N+]=[N-].[Na+]
reactant | NH4Cl | 1.7 mmol, 91 mg | [NH4+].[Cl-]
reactant | H2O | 1 ml | O | H2O
solvent | EtOH | 4 ml | CCO | C2H6O
product | 1-azido-3-(3,6-dibromo-9H-carbazol-9-yl)propan-2-ol | N(=[N+]=[N-])CC(CN1C2=CC=C(C=C2C=2C=C(C=CC12)Br)Br)O | C15H12Br2N4O
